US06258775B1
(c) Methyl 3-[3-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylcarbonyl)phenyl]acrylate.
A solution of 2 g (4.8 mmol) of 3-iodophenyl-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl)-methanone in 30 ml of DMF is introduced into a three-necked flask under a stream of nitrogen, followed by successive addition of 1.7 g of potassium carbonate, 1.4 g of tetrabutylammonium chloride and 600 μl (6.2 mmol) of methyl acrylate. The reaction medium is degassed by bubbling a stream of argon through it, and 22 mg (0.1 mmol) of palladium acetate are introduced. The reaction medium is heated at 55° C. for six hours and then poured into water, the mixture is extracted with ethyl acetate and the organic phase is separated out after settling has taken place, washed with water, dried over magnesium sulphate and evaporated. The residue obtained is purified by chromatography on a column of silica eluted with a mixture of ethyl acetate and heptane (90/10). After evaporation of the solvents, 1.39 g (77%) of the expected methyl ester, with a melting point of 103-4° C., are collected.

reactant | 3-iodophenyl-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl)-methanone | 4.8 mmol, 2 g | IC=1C=C(C=CC1)C(=O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C21H23IO
reactant | potassium carbonate | 1.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl acrylate | 6.2 mmol, 600 μl | C(C=C)(=O)OC | C4H6O2
reactant | water | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium chloride | 1.4 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium acetate | 0.1 mmol, 22 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl 3-[3-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylcarbonyl)phenyl]acrylate | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)C=1C=C(C=CC1)C=CC(=O)OC)C | C25H28O3
